US04503049
4.66 g of 2-(4-isobutylphenyl)propionic acid is agitated in 150 ml of diethyl ether with 5.04 g of phosphorus pentachloride for one hour at 20° C. The mixture is then concentrated under vacuum, thus obtaining 5.02 g of 2-(4-isobutylphenyl)propionyl chloride. This compound is reacted with trimethyl phosphite as described in Example 2, thus producing the dimethyl ester of 2-(4-isobutylphenyl)propionylphosphonic acid. The dimethyl ester is reacted with dimethyl phosphite under the conditions described in Example 2, thus obtaining the 2-(4-isobutylphenyl)-1-hydroxypropane-1,1-bis(phosphonic acid dimethyl ester).

reactant | 2-(4-isobutylphenyl)propionic acid | 4.66 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
reactant | phosphorus pentachloride | 5.04 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-(4-isobutylphenyl)propionyl chloride | 5.02 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
